US06720336B2
To a solution of 4-[1-Benzyl-4-(3-hydroxy-phenyl)-piperidin-4-yl]-N,N-diethylbenzamide (1.11 g, 2.49 mmol) in acetic acid (8 mL) in a Parr pressure bottle was added Pd(OH)2 (10% on carbon, 0.4 g). The reaction mixture was shaken under 50 psi of H2 for 20 hours. The reaction mixture was then filterd through celite. The celite cake was washed with EtOAc (250 mL) and the organic layer was concentrated to remove the acetic acid. The residue was partitioned between CH2Cl2 (10 mL) and 30% aqueous NH40H (10 mL). The organic layer was separated and the aqueous layer was washed with CH2Cl2 (3×20 mL). The combined organic layers were dried (MgSO4) and concentrated to afford 0.74 g of N,N-Diethyl-4-[4-(3-hydroxy-phenyl)-piperidin-4-yl]-benzamide (83% yield) which was used with no further purification. 1HNMR (400 MHz, CD3CO2D) δ 7.24-7.06 (comp, 5H), 6.75 (s, 1H), 6.70 (d, 1H), 6.58 (d, 1H), 3.49-3.40 (comp, 2H), 3.21-3.15 (comp, 2H), 2.90-2.85 (comp, 4H), 2.39-2.33 (comp, 4H), 1.20-1.15 (comp, 3H), 1.08-1.02 (comp, 3H); MS (M+1) 353.2.

reactant | 4-[1-Benzyl-4-(3-hydroxy-phenyl)-piperidin-4-yl]-N,N-diethylbenzamide | 2.49 mmol, 1.11 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)O)C1=CC=C(C(=O)N(CC)CC)C=C1 | C29H34N2O2
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
catalyst | Pd(OH)2 | 0.4 g | [OH-].[OH-].[Pd+2]
product | N,N-Diethyl-4-[4-(3-hydroxy-phenyl)-piperidin-4-yl]-benzamide | 0.74 g, 83% yield | C(C)N(C(C1=CC=C(C=C1)C1(CCNCC1)C1=CC(=CC=C1)O)=O)CC | C22H28N2O2
